* c:\w\HV\blocking815.asc
L1 N001 VCC 1µH
L2 VCC N002 1µH
L3 0 HV 1µH
Q1 N002 N001 0 0 NPN
V1 VCC 0 5v
.model NPN NPN
.model PNP PNP
.lib D:\LTspiceIV\lib\cmp\standard.bjt
.tran 1s 1us
.backanno
.end
